US08420052B2
Tert-butyl 4-(2-(2-fluoroethylamino)benzo[d]thiazol-6-yl)phenyl(methyl)carbamate (25 mg, 0.06 mmol) was treated with 4 mL of 4 M HCl dioxane solution for 2 h and concentrated. The residue was washed with ether (2×3 mL) and dried under high vacuum to afford N-(2-fluoroethyl)-6-(4-(methylamino)phenyl)benzo[d]thiazol-2-amine hydrochloride as a yellow solid (15 mg, 74%). 1H NMR (400 MHz, methanol-d4) δ 8.18 (s, 1 H), 7.91-7.88 (m, 2 H), 7.86-7.84 (m, 1 H), 7.67 (m, 3 H), 4.82 (t, J=4.8 Hz, 1 H), 4.70 (t, J=4/8 Hz, 1 H), 3.99 (t, J=4.4 Hz, 1 H), 3.93 (t, J=4.4 Hz, 1 H), 3.13 (s, 3 H); MS (ESI) m/z 302 (M+H+).

reactant | Tert-butyl 4-(2-(2-fluoroethylamino)benzo[d]thiazol-6-yl)phenyl(methyl)carbamate | 0.06 mmol, 25 mg | FCCNC=1SC2=C(N1)C=CC(=C2)C2=CC=C(C=C2)N(C(OC(C)(C)C)=O)C | C21H24FN3O2S
reactant | HCl dioxane | 4 M, 4 mL | O1CCOCC1.Cl
product | N-(2-fluoroethyl)-6-(4-(methylamino)phenyl)benzo[d]thiazol-2-amine hydrochloride | 15 mg, 74% | Cl.FCCNC=1SC2=C(N1)C=CC(=C2)C2=CC=C(C=C2)NC | InChI=1S/C16H16FN3S.ClH/c1-18-13-5-2-11(3-6-13)12-4-7-14-15(10-12)21-16(20-14)19-9-8-17;/h2-7,10,18H,8-9H2,1H3,(H,19,20);1H
